US04433152
A mixture of 4.0 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 2.0 g of p-cyanophenol and 3.5 g of dicyclohexylcarbodiimide was stirred overnight at room temperature in 20 ml of dry pyridine. Any insoluble materials were filtered, washed with pyridine and extracted with a solution of 20 ml of water and 20 ml of t-butanol, followed by stirring for about 20 minutes. The filtrate, washings and extract were combined together, and the solvent was removed under reduced pressure. The residue was recrystallized from water to obtain 3.4 g (yield: 59%) of p-cyanophenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 164.5° to 169° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 4.0 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | p-cyanophenol | 2.0 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | dicyclohexylcarbodiimide | 3.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | p-cyanophenyl 1-amidino-4-piperidinepropionate hydrochloride | 3.4 g, yield: 59% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)C#N | InChI=1S/C16H20N4O2.ClH/c17-11-13-1-4-14(5-2-13)22-15(21)6-3-12-7-9-20(10-8-12)16(18)19;/h1-2,4-5,12H,3,6-10H2,(H3,18,19);1H
